US06977262B2
Ethyl 4-(3-chloro-2-methylphenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 3-chloro-2-methylbenzaldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 1.

reactant | 3-chloro-2-methylbenzaldehyde | ClC=1C(=C(C=O)C=CC1)C | C8H7ClO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketohexanoate | O=C(CC(=O)OCC)CCC | C8H14O3
product | Ethyl 4-(3-chloro-2-methylphenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC=1C(=C(C=CC1)C1C=2C(NC(=C1C(=O)OCC)CCC)=NNC2)C | C19H22ClN3O2
